US08080675B2
3-(4-Hydroxyphenyl)-4-(4-methoxyphenyl)chroman-7-ol
3-(4-hydroxyphenyl)-4-(4-methoxyphenyl)-2H-chromen-7-ol 25.5 g (70 mmoles), 10% Pd/Al2O3 3.95 g and 200 ml of ethanol were combined in a 2-neck 500 ml round bottom flask. The reaction was hydrogenated at low pressure using standard conditions for 3 hours. The reaction was filtered through Celite to remove the catalyst, rinsed through with ethanol (300 ml). The filtrate was concentrated to 50 ml before being poured into chilled, stirred water (1.4 L). A pale orange precipitate formed which then formed a brown oil. The mixture was then extracted with diethyl ether, the combined organic layers washed with water (3×1 L), brine (1×500 ml), dried over anhydrous magnesium sulphate and filtered. The solvent was removed in vacuo to give red/brown oil. The product was recrystallised from diethyl ether (˜100 ml), to give brown solid which was rinsed with chilled diethyl ether to give off-white crystals 11.3 g. The 1H NMR spectrum and numbering scheme being shown below.

reactant | 3-(4-hydroxyphenyl)-4-(4-methoxyphenyl)-2H-chromen-7-ol | 70 mmoles, 25.5 g | OC1=CC=C(C=C1)C=1COC2=CC(=CC=C2C1C1=CC=C(C=C1)OC)O | C22H18O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(4-Hydroxyphenyl)-4-(4-methoxyphenyl)chroman-7-ol | 11.3 g | OC1=CC=C(C=C1)C1COC2=CC(=CC=C2C1C1=CC=C(C=C1)OC)O | C22H20O4
